US06184388B2
1-Benzyloxycarbonyl-4-(R)-(1-tert-butoxycarbonylaminocyclopropyl)-3,3-difluoropyrrolidine
1-[1-Benzyloxycarbonyl-4,4-difluoro-3-(S)-pyrrolidinyl]cyclopropanecarboxylic acid (1.953 g, 6.004 mmol) was dissolved in tert-butyl alcohol (50 ml), and the solution was mixed with diphenylphosphoryl azide (1,426 μl, 6.604 mmol) and triethylamine (1,381 μl, 9.906 mmol), stirred at room temperature for 2 hours and then heated under reflux for 16 hours. The reaction solution was cooled and then concentrated under reduced pressure, and the resulting residue was subjected to flash silica gel chromatography and eluted with an eluant of n-hexane:ethyl acetate=4:1, to thereby obtain 1.430 g (60.1%) of the title compound as a colorless oil.

reactant | 1-[1-Benzyloxycarbonyl-4,4-difluoro-3-(S)-pyrrolidinyl]cyclopropanecarboxylic acid | 6.004 mmol, 1.953 g | C(C1=CC=CC=C1)OC(=O)N1C[C@@H](C(C1)(F)F)C1(CC1)C(=O)O | C16H17F2NO4
reactant | diphenylphosphoryl azide | 6.604 mmol, 1,426 μl | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 9.906 mmol, 1,381 μl | C(C)N(CC)CC | C6H15N
reactant | tert-butyl alcohol | 50 ml | C(C)(C)(C)O | C4H10O
product | 1-Benzyloxycarbonyl-4-(R)-(1-tert-butoxycarbonylaminocyclopropyl)-3,3-difluoropyrrolidine | 1.430 g, 60.1% | C(C1=CC=CC=C1)OC(=O)N1CC([C@H](C1)C1(CC1)NC(=O)OC(C)(C)C)(F)F | C20H26F2N2O4
